US06562989B2
2-(3-(N-n-hexyl)aminophenyl)-1,3-dioxolane
According to the general procedure B, 2-(3-bromophenyl)-1,3-dioxolane (115 mg, 0.50 mmol) reacted with n-hexylamine (80 μl, 0.60 mmol) using 1 mol % of Pd(dba)2, 2 mol % of Ph5FcP(t-Bu)2, and sodium tert-butoxide (58 mg, 0.60 mmol) in toluene at 100° C. to give the title compound (118 mg, 94%) as a colorless oil: 1H-NMR (300 MHz, CDCl3): δ 7.19 (t, 1H, J=7.8 Hz), 6.81 (d, 1H, J=6.9 Hz), 6.74 (s, 1H), 6.61 (m, 1H), 5.77 (s, 1H), 4.13 (m, 2H), 4.03 (m, 2H), 3.55 (bs, 1H), 3.13 (t, 2H, J=6.9 and 7.2 Hz), 1.62 (m, 2H), 1.45-1.33 (m, 6H), 0.92 (t, 3H, J=6.0 and 6.9 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 148.53, 138.85, 129.21, 115.07, 113.48, 110.31, 103.88, 65.15, 43.98, 31.58, 29.43, 26.78, 22.59, 14.01. GC/MS (EI): m/z 249 (M+). Anal. Calcd for C15H23NO2: C, 72.25; H, 9.30; N, 5.62. Found: C, 72.19; H, 9.43; N, 5.70.

reactant | 2-(3-bromophenyl)-1,3-dioxolane | 0.50 mmol, 115 mg | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | n-hexylamine | 0.60 mmol, 80 μl | C(CCCCC)N | C6H15N
reactant | sodium tert-butoxide | 0.60 mmol, 58 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 2-(3-(N-n-hexyl)aminophenyl)-1,3-dioxolane | 118 mg, 94% | C(CCCCC)NC=1C=C(C=CC1)C1OCCO1 | C15H23NO2
